US09120761B2
(c) Methyl 2-(2-((2-(methylthio)-5-(trifluoromethyl)pyrimidin-4-yl)ethynyl)phenyl)acetate (I13)
4-Iodo-2-(methylthio)-5-(trifluoromethyl)pyrimidine (I12) (2.00 g, 6.24 mmol), PdCl2(PPh3)2 (438 mg, 625 μmol), CuI (119 mg, 625 μmol) and triphenylphosphine (164 mg, 625 μmol) were placed into an oven dried microwave reaction vial under nitrogen. Methyl 2-(2-ethynylphenyl)acetate (I4) (1.31 g, 7.49 mmol), THF (20 mL) and triethylamine (10 mL) were added and the resulting mixture was stirred at 100° C. under microwave irradiation for 10 min. The volatiles were evaporated under reduced pressure then the residue was adsorbed onto silica from DCM. The pre-adsorbed material was chromatographed on silica gel (6-25% ethyl acetate/petroleum benzine 40-60° C.) to give the title compound (I13) (1.571 g, 69%) as an orange solid; 1H NMR (400 MHz, CDCl3) δ 8.71 (d, J=0.8 Hz, 1H), 7.68 (dd, J=7.7, 1.1 Hz, 1H), 7.50-7.29 (m, 3H), 3.93 (s, 2H), 3.71 (d, J=3.4 Hz, 3H), 2.62 (d, J=3.4 Hz, 3H).

reactant | 4-Iodo-2-(methylthio)-5-(trifluoromethyl)pyrimidine | 6.24 mmol, 2.00 g | IC1=NC(=NC=C1C(F)(F)F)SC | C6H4F3IN2S
reactant | triphenylphosphine | 625 μmol, 164 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Methyl 2-(2-ethynylphenyl)acetate | 7.49 mmol, 1.31 g | C(#C)C1=C(C=CC=C1)CC(=O)OC | C11H10O2
reactant | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(PPh3)2 | 625 μmol, 438 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 625 μmol, 119 mg | [Cu]I
solvent | triethylamine | 10 mL | C(C)N(CC)CC | C6H15N
product | Methyl 2-(2-((2-(methylthio)-5-(trifluoromethyl)pyrimidin-4-yl)ethynyl)phenyl)acetate | 1.571 g, 69% | CSC1=NC=C(C(=N1)C#CC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F | C17H13F3N2O2S
